US08022062B2
4-Cycloheptyloxy-benzonitrile:
Under a nitrogen atmosphere, add 4-hydroxybenzonitrile (4 g, 33.5 mmol), cycloheptanol (2.55 g, 22.3 mmol), tri-n-butylphosphine (8.25 mL, 33.5 mmol), and azodicarboxylate dipiperidine (8.45 g, 33.5 mmol) to anhydrous THF (60 mL) at 0° C. Stir the mixture at 0° C. for 1 h and then at room temperature for 12 h. Dilute with EtOAc (50 mL) and water (50 mL). Separate the layers and extract the aqueous phase with EtOAc (4×30 mL). Wash the combined organic extracts with water (30 mL) and brine (20 mL). Dry over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel (120 g RediSep column) eluting with hexane/EtOAc (1:0 to 1:1 gradient over 1.25 h; 80 mL/min) to provide the desired intermediate as a colorless oil (2.77 g, 58%). MS (APCI) m/z: 216 (M+H)+.

reactant | 4-hydroxybenzonitrile | 33.5 mmol, 4 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | cycloheptanol | 22.3 mmol, 2.55 g | C1(CCCCCC1)O | C7H14O
reactant | tri-n-butylphosphine | 33.5 mmol, 8.25 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | azodicarboxylate dipiperidine | 33.5 mmol, 8.45 g | N1CCCCC1.N1CCCCC1.N(=NC(=O)O)C(=O)O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-Cycloheptyloxy-benzonitrile | 2.77 g, 58% | C1(CCCCCC1)OC1=CC=C(C#N)C=C1 | C14H17NO
